US08183258B2
A mixture of (8-chloro-2-phenylquinolin-3-yl)methanamine (0.035 g, 0.13 mmol) in n-butanol (3 mL) was treated with DIEA (0.046 mL, 0.26 mmol, 2.0 eq) followed with 4,6-dichloro-5-methoxypyrimidine (0.025 g, 0.14 mmol, 1 eq) at 100° C. for 8 h. The reaction mixture was concentrated and purified by column chromatography on a Redi-Sep™ column using 0 to 100% gradient of CH2Cl2:MeOH:NH4OH (89:9:1) in CH2Cl2 as eluent to provide 6-chloro-N-((8-chloro-2-phenylquinolin-3-yl)methyl)-5-methoxypyrimidin-4-amine as a white solid. 1H-NMR (DMSO-d6) δ ppm 8.33 (s, 1H), 8.20 (t, 1H), 8.02-8.04 (m, 1H), 7.99 (s, 1H), 7.93-7.95 (m, 1H), 7.70 (d, J=6.60, 1H), 7.46-7.61 (m, 1H), 4.73 (d, J=5.71, 2H), 2.51 (s, 3H), Mass Spectrum (ESI) m/e=412 (M+1).

reactant | (8-chloro-2-phenylquinolin-3-yl)methanamine | 0.13 mmol, 0.035 g | ClC=1C=CC=C2C=C(C(=NC12)C1=CC=CC=C1)CN | C16H13ClN2
reactant | DIEA | 0.26 mmol, 0.046 mL, 2.0 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 4,6-dichloro-5-methoxypyrimidine | 0.14 mmol, 0.025 g, 1 eq | ClC1=NC=NC(=C1OC)Cl | C5H4Cl2N2O
solvent | n-butanol | 3 mL | C(CCC)O | C4H10O
product | 6-chloro-N-((8-chloro-2-phenylquinolin-3-yl)methyl)-5-methoxypyrimidin-4-amine | ClC1=C(C(=NC=N1)NCC=1C(=NC2=C(C=CC=C2C1)Cl)C1=CC=CC=C1)OC | C21H16Cl2N4O
